US03971774
1-((Z)-3-chloro-2-propenyl)-2-(nitromethylene)imidazolidine
Method B, reacting 2-(nitromethylene)imidazolidine with cis-1,3-dichloropropene. Melting point: 117°-118°.

reactant | 2-(nitromethylene)imidazolidine | [N+](=O)([O-])C=C1NCCN1 | C4H7N3O2
reactant | cis-1,3-dichloropropene | Cl\C=C/CCl | C3H4Cl2
product | 1-((Z)-3-chloro-2-propenyl)-2-(nitromethylene)imidazolidine | Cl\C=C/CN1C(NCC1)=C[N+](=O)[O-] | C7H10ClN3O2
